US07202363B2
N-(4-{4-amino-7-[(1E)-3-oxoprop-1-enyl]furo[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide
A mixture of N-[4-(4-amino-7-iodofuro[3,2-c]pyridin-3-yl)-2-methoxyphenyl]-1-methyl-1H-indole-2-carboxamide (3.16 g, 5.86 mmol) in 1,2-dimethoxyethane (40 mL) and water (20 mL) was reacted 2-[(E)-3,3-diethoxy-1-propenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (2.87 g, 7.03 mmol,), sodium carbonate (1.55 g, 14.66 mmol) and tetrakis triphenylphosphine palladium (0) (0.68 g, 0.59 mmol) at 80° C. for eighteen hours. The solvent was removed in vacuo and the residue was partitioned between ethyl acetate (15 mL) and water (30 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (2×15 mL). The combined organic layers were dried over anhydrous magnesium sulfate and the solvent was removed in vacuo. The residue was purified by flash column chromatography on silica gel using 10% methanol in dichloromethane as an eluent to give a mixture of diethyl acetal, methyl ethyl acetal, and aldehyde. This mixture was reacted with p-toluenesulfonic acid monohydrate (0.10 g, 0.53 mmol) in acetone (100 mL) and water (10 mL) at ambient temperature for eighteen hours. The acetone was removed in vacuo and the precipitate was filtered, washing with water. The precipitate was triturated with 2-propanol (30 mL) for 1 hour. The solid was filtered and dried in vacuo to give the title compound (1.690 g, 62%) as a yellow solid. 1H NMR (DMSO-d6, 400 MHz) 9.64 (d, 1H), 9.49 (s, 1H), 8.26 (s, 1H), 8.22 (s, 1H), 8.06 (t, 1H), 7.79 (d, 1H), 7.71 (d, 1H), 7.59 (d, 1H), 7.30–7.38 (m, 2H), 7.27 (d, 1H), 7.12–7.20 (m, 2H), 6.94 (dd, 1H), 6.33–6.59 (b, 2H), 4.04 (s, 3H), 3.94 (s, 3H); RP-HPLC (Conditions d) Rt 7.36 min.; MS: MH+ 467.

reactant | N-[4-(4-amino-7-iodofuro[3,2-c]pyridin-3-yl)-2-methoxyphenyl]-1-methyl-1H-indole-2-carboxamide | 5.86 mmol, 3.16 g | NC1=NC=C(C2=C1C(=CO2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)I | C24H19IN4O3
reactant | 2-[(E)-3,3-diethoxy-1-propenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 7.03 mmol, 2.87 g | C(C)OC(/C=C/B1OC(C(O1)(C)C)(C)C)OCC | C13H25BO4
reactant | sodium carbonate | 14.66 mmol, 1.55 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | p-toluenesulfonic acid monohydrate | 0.53 mmol, 0.10 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | 1,2-dimethoxyethane | 40 mL | COCCOC | C4H10O2
solvent | water | 20 mL | O | H2O
solvent | acetone | 100 mL | CC(=O)C | C3H6O
solvent | water | 10 mL | O | H2O
product | N-(4-{4-amino-7-[(1E)-3-oxoprop-1-enyl]furo[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide | 1.690 g, 62% | NC1=NC=C(C2=C1C(=CO2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)\C=C\C=O | C27H22N4O4
